US09062034B2
(c) 5-chloro-thiophene-2-carboxylic acid-N-[2-methoxy-1-methoxymethyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-ethyl]-amide
0.05 g (0.16 mmol) 2-[(5-chloro-thiophene-2-carbonyl)-amino]-3-methoxy-2-methoxymethyl-propionic acid are dissolved in 1.5 ml THF and at room temperature 0.04 g (0.16 mmol) 2-ethoxy-1-ethoxycarbonyl-1.2-dihydroquinoline (EEDQ) are added. After 30 min, 0.029 g (0.16 mmol) of 3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine is added and the mixture is stirred for 12 h at 40° C. Then it is concentrated by evaporation i.vac. And purified by chromatography through RP material (Microsorb C18 Varian; eluant: water/acetonitrile/trifluoroacetic acid=90:10:0.1=>0:100:0.1).

reactant | 2-[(5-chloro-thiophene-2-carbonyl)-amino]-3-methoxy-2-methoxymethyl-propionic acid | 0.16 mmol, 0.05 g | ClC1=CC=C(S1)C(=O)NC(C(=O)O)(COC)COC | C11H14ClNO5S
reactant | 2-ethoxy-1-ethoxycarbonyl-1.2-dihydroquinoline | 0.16 mmol, 0.04 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | 3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine | 0.16 mmol, 0.029 g | CN1CCC2=C(CC1)C=C(C=C2)N | C11H16N2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 5-chloro-thiophene-2-carboxylic acid-N-[2-methoxy-1-methoxymethyl-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-ethyl]-amide | COCC(C(NC1=CC2=C(CCN(CC2)C)C=C1)=O)(COC)NC(=O)C=1SC(=CC1)Cl | C22H28ClN3O4S
